US08242157B2
To a solution of (2-nitro-phenyl)-(2,2,2-trifluoro-ethyl)-amine (2.16 g, 9.8 mmol) in THF (6 mL) and MeOH (24 mL) at 0° C. was added ammonium formate (2.47 g, 39.2 mmol). The resulting mixture was purged with nitrogen, then 10% Pd/C (57 mg) was added. The ice bath was removed and the resulting mixture was stirred at room temperature for 5 h. The resulting mixture was filtered over CELITE®, washing with EtOAc. Removal of the solvent in vacuo yielded N-(2,2,2-trifluoro-ethyl)-benzene-1,2-diamine, which was used in the next step without further purification. MS 191 (M+1)+

reactant | (2-nitro-phenyl)-(2,2,2-trifluoro-ethyl)-amine | 9.8 mmol, 2.16 g | [N+](=O)([O-])C1=C(C=CC=C1)NCC(F)(F)F | C8H7F3N2O2
reactant | ammonium formate | 39.2 mmol, 2.47 g | C(=O)[O-].[NH4+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | MeOH | 24 mL | CO | CH4O
product | N-(2,2,2-trifluoro-ethyl)-benzene-1,2-diamine | FC(CNC=1C(=CC=CC1)N)(F)F | C8H9F3N2
